US07598257B2
To a solution of 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal (70 mg, 0.0002 mol) in methanol (2 mL, 0.05 mol) was added methoxylamine hydrochloride (19 mg, 0.00022 mol) and potassium bicarbonate (22 mg, 0.00022 mol). The reaction was stirred at room temperature for 2 h, water was added and the product was extracted with ethyl acetate. The combined extracts were washed with saturated sodium chloride, dried over magnesium sulfate, was filtered and was concentrated to give 3-[4-(7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal O-methyloxime as a mixture of isomers (70 mg, 90%) crude product. LC/MS (M+H)+: m/z=429.

reactant | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal | 0.0002 mol, 70 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC=O)CC)(C)C | C20H29N5O2Si
reactant | methanol | 0.05 mol, 2 mL | CO | CH4O
reactant | methoxylamine hydrochloride | 0.00022 mol, 19 mg | Cl.O(C)N
reactant | potassium bicarbonate | 0.00022 mol, 22 mg | C([O-])(O)=O.[K+]
solvent | water | O | H2O
product | 3-[4-(7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal O-methyloxime | CON=CCC(CC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C21H32N6O2Si
